US07452886B2
To a solution of 7.62 g (0.015 moles) of 3-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-1-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid .tert.-butyl ester in 30 ml of CH2Cl2, 30 ml (389 mmoles) of TFA is added at 0° C. After bing stirred for 1 hour at ambient temperature, sat. NaHCO3 is added at 0° C. to the reaction mixture and the mixture is extracted with CH2Cl2. The combined extracts are dried over MgSO4 and concentrated under reduced pressure to give desired 7-(2,2-dimethyl-propyl)-6-(1-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in quantitative yield. The crude product is used for the next step without purification.

reactant | 3-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-1-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid | 0.015 moles, 7.62 g | C(#N)C=1N=CC2=C(N1)N(C(=C2)CN2C(N(C1(C2=O)CCN(CC1)C(=O)O)C)=O)CC(C)(C)C | C22H27N7O4
reactant | TFA | 389 mmoles, 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 7-(2,2-dimethyl-propyl)-6-(1-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | quantitative yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(N(C1(C2=O)CCNCC1)C)=O)(C)C | C21H27N7O2
